US07378135B2
Under a nitrogen atmosphere, 4-(6-hydroxyhexyloxy)-2-fluorobenzoic acid (189 g), N,N-dimethylaniline (133 g) and 2,6-dibutyl-p-cresol (0.80 g) were added to tetrahydrofuran (500 mL). Acrylic acid chloride (100 g) was added dropwise thereto, followed by agitating at 60° C. for 3 hours. The reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed with hydrochloric acid, a saturated sodium hydrogencarbonate aqueous solution and water, and after drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was recrystallized from ethanol to obtain 4-(6-acryloylhexyloxyhexyloxy)-2-fluorobenzoic acid (141 g).

reactant | 4-(6-hydroxyhexyloxy)-2-fluorobenzoic acid | 189 g | OCCCCCCOC1=CC(=C(C(=O)O)C=C1)F | C13H17FO4
reactant | N,N-dimethylaniline | 133 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
reactant | Acrylic acid chloride | 100 g | C(C=C)(=O)Cl | C3H3ClO
catalyst | 2,6-dibutyl-p-cresol | 0.80 g | C(CCC)C1=CC(=CC(=C1O)CCCC)C | C15H24O
solvent | water | O | H2O
product | 4-(6-acryloylhexyloxyhexyloxy)-2-fluorobenzoic acid | 141 g | C(C=C)(=O)CCCCCCOCCCCCCOC1=CC(=C(C(=O)O)C=C1)F | C22H31FO5
